US04599333
To 1.58 g of 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-aminoethylamino)-2-propanol heated at 110° C. in an oil bath with stirring was added 934 mg of 3,6-dichloropyridazine little by little. After heating at 110° C. for 1 hour, the reaction mixture was dissolved in benzene, and extracted with 1N hydrochloric acid. The aqueous layer was made alkaline with potassium carbonate, and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated to give 1.55 g of 1-(2-methylphenoxy)-3-[1,1-dimethyl-2-(3-chloro-6-pyridazinylamino)ethylamino]-2-propanol as an oil.

reactant | 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-aminoethylamino)-2-propanol | 1.58 g | CC1=C(OCC(CNC(CN)(C)C)O)C=CC=C1 | C14H24N2O2
reactant | 3,6-dichloropyridazine | 934 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(2-methylphenoxy)-3-[1,1-dimethyl-2-(3-chloro-6-pyridazinylamino)ethylamino]-2-propanol | 1.55 g | CC1=C(OCC(CNC(CNC2=CC=C(N=N2)Cl)(C)C)O)C=CC=C1 | C18H25ClN4O2
